US07456164B2
Intermediate 96: (3-Nitro-pyridin-2-yl)-{4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-amine
To a stirred solution of {4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine (320 mg, 1.0 mmol) in acetonitrile (˜5 mL), was added Hunig's base (190 μL, 1.1 mmol, 1.1 eq.) and 2-chloro-3-nitropyridine (175 mg, 1.1 mmol, 1.1 eq.) and the mixture stirred at reflux for 4 hours. The reaction mixture was then concentrated in vacuo and partitioned between saturated NaHCO3 solution (20 mL) and DCM (2×20 mL). The organics were combined, dried over sodium sulphate, filtered and concentrated in vacuo to give the title compound (475 mg, 100%) as a yellow oil. LRMS APCI+ m/z 441 [MH]+.

reactant | {4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine | 1.0 mmol, 320 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN | C19H30N2O2
reactant | Hunig's base | 1.1 mmol, 190 μL, 1.1 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-chloro-3-nitropyridine | 1.1 mmol, 175 mg, 1.1 eq. | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
solvent | acetonitrile | ˜5 mL | C(C)#N | C2H3N
product | (3-Nitro-pyridin-2-yl)-{4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-amine | 475 mg, 100% | [N+](=O)([O-])C=1C(=NC=CC1)NCC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C24H32N4O4
